US05077380
A. Synthesis of 4-Hydroxy-4'-nitrobenzanilide
p-Hydroxybenzoic acid (59.05 grams, 0.4275 mole), sodium ethoxide catalyst (0.133 gram, 0.225% wt. of the p-hydroxybenzoic acid used) and N,N'-dimethylacetamide solvent (404 grams) are added to a reactor equipped with a reflux condenser and stirred under a nitrogen atmosphere at 80° C. p-Nitrophenylisocyanate (73 85 grams, 0.450 mole) is initially added in an aliquot of 25.00 grams, followed by 25.00 and 23.85 gram aliquots eleven then nine minutes later, respectively, and so as to maintain a 80° to 82° C. reaction temperature. After the last aliquot of p-nitrophenylisocyanate is added, heating of the reactor commenced and a 160° C. reaction temperature is achieved 24 minutes later. After three hours at the 160° C. reaction temperature, the reactor is cooled to 30° C. then the contents poured into one gallon of deionized water. A precipitated yellow powder is recovered via filtration of the aqueous slurry then dissolved into 1900 milliliters of boiling methanol and refluxed therein (65° C.). After cooling the methanol solution to 5° C. and maintaining therein for twelve hours, a first crop of pale yellow colored crystalline product is filtered off and dried at 110° C. under vacuum to a constant weight of 92.5 grams (79.6% isolated yield). No attempt was made to recover a second crop of crystalline product from the mother liquor. Fourier transform infrared spectrophotometric analysis of a nujol mull of a portion of the product on a sodium chloride plate revealed the presence of the expected secondary amide N--H stretching (solid state) at 3385 cm-1 (sharp), the secondary amide carbonyl stretching (solid state) at 1655 cm-1 (sharp), the hydroxyl group O--H stretching centered at 3232 cm-1 (broad) and the conjugated nitro group absorbances at 1537 and 1339 cm-1 (sharp). Proton magnetic resonance spectroscopy (250 MHz) further confirmed the product structure as 4-hydroxy-4'-nitrobenzanilide.

reactant | p-Hydroxybenzoic acid | 0.4275 mole, 59.05 grams | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | p-Nitrophenylisocyanate | 0.450 mole, 85 grams | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
catalyst | sodium ethoxide | [O-]CC.[Na+]
solvent | water | one gallon | O | H2O
product | 4-Hydroxy-4'-nitrobenzanilide | OC1=CC=C(C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H10N2O4
